US05101048
Preparation of 4-acetamidophenyl 2,3,4-tri-O-acetyl-1,5dithio-β-D-xylopyranoside (Example 19a)
If the procedure described in Preparation IV is followed starting from 4.5 g (27.10-3 mol) of N-(4-mercaptophenyl)acetamide, 11.43 g (32.10-3 mol) of 2,3,4-tri-O-acetyl-5-thio-D-xylopyranosyl bromide and 2.16 g (27.10-3 mol) of zinc oxide (ZnO), 3 g (yield: 25%) of the expected product are obtained after recrystallization from a toluene/isopropyl ether mixture.

reactant | N-(4-mercaptophenyl)acetamide | 27.10-3 mol, 4.5 g | SC1=CC=C(C=C1)NC(C)=O | C8H9NOS
reactant | 2,3,4-tri-O-acetyl-5-thio-D-xylopyranosyl bromide | 32.10-3 mol, 11.43 g | C(C)(=O)O[C@H]1C(SC[C@H]([C@@H]1OC(C)=O)OC(C)=O)Br | C11H15BrO6S
catalyst | zinc oxide | 27.10-3 mol, 2.16 g | [O-2].[Zn+2]
product | 4-acetamidophenyl 2,3,4-tri-O-acetyl-1,5dithio-β-D-xylopyranoside | 3 g, yield: 25% | C(C)(=O)O[C@H]1[C@H](SC2=CC=C(C=C2)NC(C)=O)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C19H23NO7S2
